US04280958
Stannous chloride and conc. hydrochloric acid are added to 2-nitrophenethyl bromide to obtain 2-aminophenethyl bromide and a cyclization of 2-aminophenethyl bromide is carried out to obtain the indolines (J. of the American Chemical Society Vol. 63, page 1563 (1941)).

reactant | hydrochloric acid | Cl | ClH
reactant | 2-nitrophenethyl bromide | [N+](=O)([O-])C1=C(CCBr)C=CC=C1 | C8H8BrNO2
product | 2-aminophenethyl bromide | NC1=C(CCBr)C=CC=C1 | C8H10BrN
